US07897779B2
b) 2-[2-(2-iodoethoxy)-ethoxy]-ethanol
A 25 ml reaction flask, equipped with a reflux condenser, an oil bath and a magnetic stirrer was charged with 2 g (11.9 mmol) of 2-[2-(2-chloroethoxy)-ethoxy]-ethanol (Fluka), 4 g of sodium iodide and 3 g of sodium hydrogencarbonate in 20 ml of Acetone. The reaction mixture is refluxed over night and when cold, filtered. The filtrate is concentrated at the rotavap, dissolved in 5 ml of CH2Cl2 and filtered again. Then the filtrate is concentrated again at the rotavap to yield 2.5 g of a yellow oil. The NMR shows a pure substance (CDCl3) 2.58 s broad (1H/OH); 3.22 t (2H/CH2-J); 3.53-3.77 m (10H/CH2—O).

reactant | 2-[2-(2-chloroethoxy)-ethoxy]-ethanol | 11.9 mmol, 2 g | ClCCOCCOCCO | C6H13ClO3
reactant | sodium iodide | 4 g | [I-].[Na+]
reactant | sodium hydrogencarbonate | 3 g | C(O)([O-])=O.[Na+]
solvent | Acetone | 20 ml | CC(=O)C | C3H6O
product | 2-[2-(2-iodoethoxy)-ethoxy]-ethanol | 2.5 g | ICCOCCOCCO | C6H13IO3
